US07220856B2
Preparation of 7-Chloro-4-(2,5-diazanorborn-2-yl)quinoline
4,7-Dichloroquinoline (0.38 g, 1.9 mmol) and 2,5-diazanorbornane dihydrobromide (1.0 g, 3.8 mmol), and DABCO (1.3 g, 11.4 mmol) in n-butanol (20 mL) are reacted according to method B yielding the product after column chromatography with CH2Cl2-MeOH.

reactant | 4,7-Dichloroquinoline | 1.9 mmol, 0.38 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 2,5-diazanorbornane dihydrobromide | 3.8 mmol, 1.0 g | Br.Br.C12NCC(NC1)C2
reactant | DABCO | 11.4 mmol, 1.3 g | C1CN2CCN1CC2 | C6H12N2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
product | 7-Chloro-4-(2,5-diazanorborn-2-yl)quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1C2CNC(C1)C2 | C14H14ClN3
